US06515011B2
DIEA (3.57 mL, 20.50 mmol) was added to a stirred mixture of 3-hydroxyazetidine hydrochloride (1.00 g, 9.11 mmol) and 2-bromomethyl-5-chlorobenzonitrile (2.10 g, 9.11 mmol) in CH2Cl2 (75 mL). After 16 h the reaction mixture was concentrated and the residue was partitioned between ether and 1N HCl. The aqueous layer was washed with ether, made neutral with NaHCO3, saturated with NaCl and extracted into CH2Cl2. The organic layer was dried (Na2SO4) and evaporated to give 5-chloro-2-[(3-hydroxyazetidin-1-yl)methyl]benzonitrile (1.67 g) as a gum: 1H NMR (CDCl3, 400 MHz) δ 3.03 (m, 2H), 3.68 (m, 2H), 4.49 (t, J=6.2 Hz, 1H), 7.46 (d, J=8.6 Hz, 1H), 7.53 (d,d, J=2.2, 6.2 Hz, 1H), 7.60 (d, J=2.0 Hz, 1H).

reactant | DIEA | 20.50 mmol, 3.57 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-hydroxyazetidine hydrochloride | 9.11 mmol, 1.00 g | Cl.OC1CNC1
reactant | 2-bromomethyl-5-chlorobenzonitrile | 9.11 mmol, 2.10 g | BrCC1=C(C#N)C=C(C=C1)Cl | C8H5BrClN
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-[(3-hydroxyazetidin-1-yl)methyl]benzonitrile | 1.67 g | ClC=1C=CC(=C(C#N)C1)CN1CC(C1)O | C11H11ClN2O
